US08357688B2
A mixture of 5.3 g of methyl 2-methyl-4,5-dinitrobenzoate, 1.06 g of 10% palladium on carbon (50% wet), 53 mL of ethanol, and 53 mL of dioxane was thoroughly stirred at room temperature under a hydrogen atmosphere. The insoluble materials were filtered and washed sufficiently with methanol. The filtrates were concentrated together, and then dried under reduced pressure to obtain 3.98 g of methyl 4,5-diamino-2-methylbenzoate.

reactant | methyl 2-methyl-4,5-dinitrobenzoate | 5.3 g | CC1=C(C(=O)OC)C=C(C(=C1)[N+](=O)[O-])[N+](=O)[O-] | C9H8N2O6
reactant | ethanol | 53 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 1.06 g | [Pd] | Pd
solvent | dioxane | 53 mL | O1CCOCC1 | C4H8O2
product | methyl 4,5-diamino-2-methylbenzoate | 3.98 g | NC1=CC(=C(C(=O)OC)C=C1N)C | C9H12N2O2
